US04117128
2-Benzyl-3-[4-(3-diethylaminopropoxy)phenylsulfonyl]-5-ethylbenzofuran
Reaction of 2-benzyl-5-ethyl-3-(4-hydroxyphenylsulfonyl)benzofuran with 3-diethylaminopropyl chloride as described above gives the title compound.

reactant | 2-benzyl-5-ethyl-3-(4-hydroxyphenylsulfonyl)benzofuran | C(C1=CC=CC=C1)C=1OC2=C(C1S(=O)(=O)C1=CC=C(C=C1)O)C=C(C=C2)CC | C23H20O4S
reactant | 3-diethylaminopropyl chloride | C(C)N(CCCCl)CC | C7H16ClN
product | 2-Benzyl-3-[4-(3-diethylaminopropoxy)phenylsulfonyl]-5-ethylbenzofuran | C(C1=CC=CC=C1)C=1OC2=C(C1S(=O)(=O)C1=CC=C(C=C1)OCCCN(CC)CC)C=C(C=C2)CC | C30H35NO4S
